US05574042
A mixture of 4,6-dichloro-3,5-dimethyl-2-benzothiazolinone (1.30 g), N-bromosuccinimide (1.03 g), 2,2'-azobis-(2,4-dimethyl-4-methoxyvaleronitrile) (65 mg) and dichloromethane (26 ml) was heated under reflux for 2 hours. N-Bromosuccinimide (500 mg) was added therein and the mixture was heated under reflux for additional 4 hours. The reaction mixture was washed with water twice and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from diethyl ether to give 5-bromomethyl-4,6-dichloro-3-methyl-2-benzothiazolinone (1.20 g) as crystals.

reactant | 4,6-dichloro-3,5-dimethyl-2-benzothiazolinone | 1.30 g | ClC1=C(C(=CC2=C1N(C(S2)=O)C)Cl)C | C9H7Cl2NOS
reactant | N-bromosuccinimide | 1.03 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-Bromosuccinimide | 500 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | 2,2'-azobis-(2,4-dimethyl-4-methoxyvaleronitrile) | 65 mg | N(=NC(C#N)(CC(C)(C)OC)C)C(C#N)(CC(C)(OC)C)C | C16H28N4O2
solvent | dichloromethane | 26 ml | ClCCl | CH2Cl2
product | 5-bromomethyl-4,6-dichloro-3-methyl-2-benzothiazolinone | 1.20 g | BrCC=1C(=CC2=C(N(C(S2)=O)C)C1Cl)Cl | C9H6BrCl2NOS
